US06680313B2
Sodium (1S,5R,6S)-2-[7-(2-acetimidoylaminoethyl)thioimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate
The procedure of Example 12 was repeated, except that 44.0 mg of sodium (1S,5R,6S)-2-[7-(2-aminoethyl)thioimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate and 63 mg of ethylacetimidate hydrochloride were used as the starting compounds. Thus, 9.3 mg of the title compound was prepared.

reactant | sodium (1S,5R,6S)-2-[7-(2-aminoethyl)thioimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate | 44.0 mg | NCCSC=1N=CN2C1SC(=C2)C=2[C@@H]([C@H]1N(C2C(=O)[O-])C([C@@H]1[C@@H](C)O)=O)C.[Na+]
reactant | ethylacetimidate hydrochloride | 63 mg | Cl.C(C)OC(C)=N
product | Sodium (1S,5R,6S)-2-[7-(2-acetimidoylaminoethyl)thioimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate | 9.3 mg | C(C)(=N)NCCSC=1N=CN2C1SC(=C2)C=2[C@@H]([C@H]1N(C2C(=O)[O-])C([C@@H]1[C@@H](C)O)=O)C.[Na+] | InChI=1S/C19H23N5O4S2.Na/c1-8-12(15(19(27)28)24-14(8)13(9(2)25)17(24)26)11-6-23-7-22-16(18(23)30-11)29-5-4-21-10(3)20;/h6-9,13-14,25H,4-5H2,1-3H3,(H2,20,21)(H,27,28);/q;+1/p-1/t8-,9+,13+,14+;/m0./s1
